US07566724B2
Under an argon atmosphere, copper iodide (2.8 mg) and dichlorobis(triphenylphosphine)palladium (5.2 mg) were added to a solution of 2-(2,6-dichlorobenzamido)pent-4-ynoic acid methyl ester (74 mg), 2-(4-iodophenoxy)pyrimidine (81 mg) in THF/diisopropylamine (3/1) mixture (5 ml), and the resulting mixture was stirred at room temperature for 2 hours. The reaction solution was concentrated and ethyl acetate was added to the residue. The insoluble matter was removed by filtration, and the filtrate was washed once with water and once with saturated brine and dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated. The residue was purified by column chromatography (silica gel, eluent: cyclohexane/chloroform 10=2/1-cyclohexane/chloroform=1/3) to obtain 2-(2,6-dichlorobenzamido)-5-[4-(pyrimidin-2-yloxy)phenyl]pent-4-ynoic acid methyl ester (100 mg).

reactant | 2-(2,6-dichlorobenzamido)pent-4-ynoic acid methyl ester | 74 mg | COC(C(CC#C)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C13H11Cl2NO3
reactant | 2-(4-iodophenoxy)pyrimidine | 81 mg | IC1=CC=C(OC2=NC=CC=N2)C=C1 | C10H7IN2O
solvent | THF diisopropylamine | C1CCOC1.C(C)(C)NC(C)C
catalyst | copper iodide | 2.8 mg | [Cu](I)I
catalyst | dichlorobis(triphenylphosphine)palladium | 5.2 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(2,6-dichlorobenzamido)-5-[4-(pyrimidin-2-yloxy)phenyl]pent-4-ynoic acid methyl ester | 100 mg | COC(C(CC#CC1=CC=C(C=C1)OC1=NC=CC=N1)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C23H17Cl2N3O4
